US06323267B1
23.6 g of methyl 3-(3-tert-butyl-4-hydroxyphenyl)propionate, 10.1 g of glyoxylic acid monohydrate and 0.08 g of p-toluenesulfonic acid are boiled in 80 ml of 1,2-dichloroethane under a water separator for 7 h. The reaction solution is then cooled down, washed 3 times with 50 ml of water each time and freed of solvent in a rotary evaporator to leave 29.2 g of methyl 3-(7-tert-butyl-3-hydroxy-2-oxo-2,3-dihydrobenzofuran-5-yl)propionate in the form of a yellowish oil.

reactant | methyl 3-(3-tert-butyl-4-hydroxyphenyl)propionate | 23.6 g | C(C)(C)(C)C=1C=C(C=CC1O)CCC(=O)OC | C14H20O3
reactant | glyoxylic acid monohydrate | 10.1 g | O.C(C=O)(=O)O
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
catalyst | p-toluenesulfonic acid | 0.08 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | methyl 3-(7-tert-butyl-3-hydroxy-2-oxo-2,3-dihydrobenzofuran-5-yl)propionate | 29.2 g | C(C)(C)(C)C1=CC(=CC=2C(C(OC21)=O)O)CCC(=O)OC | C16H20O5
